US08258130B2
To a solution of 3-amino-4-chloropyridine (6.56 g, 51 mmol) in THF (46 mL) is added 2 M NaHMDS in THF (50 mL, 100 mmol). After stirring at rt for 15 min BOC2O (10.1 g, 46.4 mmol) in THF (26 mL) is added in one portion and the mixture is stirred for 3 h at rt. 0.1% aqueous HCl (590 mL) is added. The mixture is extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel chromatography eluting with 0-50% EtOAc in heptane to afford (4-chloro-pyridin-3-yl)-carbamic acid tert-butyl ester (6.78 g, 76%). MS: 229 (M+H); 1H NMR (300 MHz, CDCl3): δ 9.38 (ms 1H), 8.23 (d, 1H), 7.30 (dd, 1H), 6.85 (broad s, 1H), 1.57 (s, 9H).

reactant | 3-amino-4-chloropyridine | 51 mmol, 6.56 g | NC=1C=NC=CC1Cl | C5H5ClN2
reactant | NaHMDS | 2 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | BOC2O | 46.4 mmol, 10.1 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 590 mL | Cl | ClH
solvent | THF | 46 mL | C1CCOC1 | C4H8O
solvent | THF | 26 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mmol, 50 mL | C1CCOC1 | C4H8O
product | (4-chloro-pyridin-3-yl)-carbamic acid tert-butyl ester | 6.78 g, 76% | C(C)(C)(C)OC(NC=1C=NC=CC1Cl)=O | C10H13ClN2O2
